US07125901B2
A mixture of benzyl 4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-ylcarbamate (1.4 g), palladium on carbon (140 mg) and methanol (2 ml) was stirred under hydrogen atmosphere (4 atm) at ambient temperature for 8 hours. The catalyst was filtered off, and the filtrate was concentrated in vacuo to give benzyl 4-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-ylcarbamate (1.2 g).

reactant | benzyl 4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-ylcarbamate | 1.4 g | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C=1N=C(SC1)NC(OCC1=CC=CC=C1)=O | C19H15N3O4S
catalyst | palladium on carbon | 140 mg | [Pd] | Pd
solvent | methanol | 2 ml | CO | CH4O
product | benzyl 4-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-ylcarbamate | 1.2 g | NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(OCC1=CC=CC=C1)=O | C19H19N3O2S
